US05668291
3,3'-[Dithiobis(2,1-phenylenecarbonylimino)]bis-2-thiophenecarboxylic acid, dimethyl ester (general method)
A solution of 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane was added to a solution of methyl 3-amino-2-thiophenecarboxylate (1.82 g, 11.6 mmol) in 14 mL of pyridine at 23° C. The reaction mixture was stirred for 18 hours at 23° C. under nitrogen atmosphere. The precipitate formed was collected by filtration, then triturated with 5% aqueous HCl and washed with water to yield the crude product. The crude material was recrystallized first from ethanol, then from acetonitrile-DMF to yield 2.0 g of the title compound, mp 250°-252° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | methyl 3-amino-2-thiophenecarboxylate | 11.6 mmol, 1.82 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | 3,3'-[Dithiobis(2,1-phenylenecarbonylimino)]bis-2-thiophenecarboxylic acid, dimethyl ester | 2.0 g | C1(=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)NC1=C(SC=C1)C(=O)OC)C(=O)NC1=C(SC=C1)C(=O)OC | C26H20N2O6S4
